US08703953B2
To the solution of (S)-2-(1-((5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)isoindoline-1,3-dione (1.47 g, 3.43 mmol) in ethanol (8 mL) under a nitrogen atmosphere was added hydrazine (0.754 mL, 24.02 mmol) at rt and the reaction mixture was then stirred at 45° C. in an oil bath for 3 h. A white precipitate formed during the course of the reaction. The reaction mixture was quenched by addition of water (15 mL) and the product was extracted with ethyl acetate (3×25 mL). The combined organic extracts were dried with sodium sulfate and concentrated under reduced pressure. The residue was purified by preparative HPLC on a reverse phase C-18 column using 10 mM ammonium acetate buffer and acetonitrile gradient. The fractions were concentrated under reduced pressure and lyophilized to yield (S)-1-((5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine (0.4 g, 0.970 mmol, 39% yield) as a yellow solid. 1H NMR (400 MHz, CD3OD) δ 8.48 (d, J=5.6 Hz, 1H), 8.37 (s, 1H), 7.86 (d, J=8.8 Hz, 1H), 7.70 (d, J=5.2 Hz, 1H), 6.83 (dd, J=8.4, 2.4, 1H), 6.70 (d, J=2.4 Hz, 1H), 5.20 (s, 2H), 4.28 (dd, J=11.2, 3.6, 1H), 4.10 (dd, J=10.4, 6.4, 1H), 3.66 (m, 1H), 1.82 (m, 1H), 1.69-1.63 (m, 2H), 1.04 (m, 6H); LCMS (ESI) m/e 299.2 [(M+H)+, calcd for C18H22N2O2 299.38]; LC/MS retention time (Method E): tR=1.78 min. HPLC retention time (method A): tR=7.97 min; CHIRAL HPLC retention time (method C): tR=12.87 min; optical rotation: [α]20D (MeOH)=+7.1°.

reactant | (S)-2-(1-((5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)isoindoline-1,3-dione | 3.43 mmol, 1.47 g | C1=C2C(=CN=C1)COC=1C=C(C=CC12)OC[C@H](CC(C)C)N1C(C2=CC=CC=C2C1=O)=O | C26H24N2O4
reactant | hydrazine | 24.02 mmol, 0.754 mL | NN | H4N2
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | (S)-1-((5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine | 0.970 mmol, 0.4 g, 39% yield | C1=C2C(=CN=C1)COC=1C=C(C=CC12)OC[C@H](CC(C)C)N | C18H22N2O2
